US05753664
2-[4-(4-Hydroxybenzoyl)benzylthio]-3-methylthieno-[3,2-d]pyrimidin-4(3H)-one
To a solution of 2-[4-(4-acetoxybenzoyl) benzylthio]-3-methylthieno[3,2-d]pyrimidin-4(3H)-one (3.51 g) in THF (20 ml) was added 1N-sodium hydroxide/water (10 ml) and the mixture was stirred at room temperature for 30 minutes. This reaction mixture was concentrated, the residue was dissolved in water, and 1N-hydrochloric acid was added. The resulting crystals were collected by filtration, rinsed with water, and dried to provide the title compound as colorless solid (3.22 g).

reactant | 2-[4-(4-acetoxybenzoyl) benzylthio]-3-methylthieno[3,2-d]pyrimidin-4(3H)-one | 3.51 g | C(C)(=O)OC1=CC=C(C(=O)C2=CC=C(CSC=3N(C(C4=C(N3)C=CS4)=O)C)C=C2)C=C1 | C23H18N2O4S2
reactant | sodium hydroxide water | 10 ml | [OH-].[Na+].O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-[4-(4-Hydroxybenzoyl)benzylthio]-3-methylthieno-[3,2-d]pyrimidin-4(3H)-one | 3.22 g | OC1=CC=C(C(=O)C2=CC=C(CSC=3N(C(C4=C(N3)C=CS4)=O)C)C=C2)C=C1 | C21H16N2O3S2
